US08809371B2
A 5M sodium hydroxide aqueous solution (0.1 ml) and a 30% hydrogen peroxide solution (0.1 ml) were added to a solution of dimethyl sulfoxide (1 ml) and ethanol (0.5 ml) containing 6-(((1R,2S)-2-aminocyclohexyl)amino)-5-fluoro-2-(quinolin-5-ylamino)nicotinonitrile (20 mg), followed by stirring at room temperature for 1 hour. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated saline and dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure. 4M hydrogen chloride/1,4-dioxane (0.5 ml) was added to the obtained residue, the resulting precipitate was collected by filtration, and a red solid of 6-(((1R,2S)-2-aminocyclohexyl)amino)-5-fluoro-2-(quinolin-5-ylamino)nicotinamide (12 mg) was thus obtained.

reactant | sodium hydroxide | 5M, 0.1 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 0.1 ml | OO | H2O2
reactant | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
reactant | 6-(((1R,2S)-2-aminocyclohexyl)amino)-5-fluoro-2-(quinolin-5-ylamino)nicotinonitrile | 20 mg | N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C#N)C=C1F)NC1=C2C=CC=NC2=CC=C1 | C21H21FN6
solvent | Water | O | H2O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 6-(((1R,2S)-2-aminocyclohexyl)amino)-5-fluoro-2-(quinolin-5-ylamino)nicotinamide | 12 mg | N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)N)C=C1F)NC1=C2C=CC=NC2=CC=C1 | C21H23FN6O
